US06867204B2
3-Methanesulfonyl-benzenesulfonyl chloride (80 mg, 0.314 mmol) was added in small portions under nitrogen to an ice-cold solution of 4-(6-chloro-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester (101 mg, 0.285 mmol) and pyridine (50 mg, 0.628 mmol) in dichlormethane (2 mL). After 1.5 hours at ambient temperature, water was added. The layers were separated and the organic phase was washed with saturated aqueous solution of sodium bicarbonate (20 mL), dried (Na2SO4) and concentrated to give 4-[6-chloro-4-(3-methanesulfonyl-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl]-piperazine-1-carboxylic acid tert-butyl ester as an oil (150 mg, 91%).

reactant | 3-Methanesulfonyl-benzenesulfonyl chloride | 0.314 mmol, 80 mg | CS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO4S2
reactant | 4-(6-chloro-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.285 mmol, 101 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=2NCCOC21)Cl | C17H24ClN3O3
reactant | pyridine | 0.628 mmol, 50 mg | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | dichlormethane | 2 mL | ClCCl | CH2Cl2
product | 4-[6-chloro-4-(3-methanesulfonyl-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl]-piperazine-1-carboxylic acid tert-butyl ester | 150 mg, 91% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=2N(CCOC21)S(=O)(=O)C2=CC(=CC=C2)S(=O)(=O)C)Cl | C24H30ClN3O7S2
